US07307178B2
Synthesis of 2,2-dimethyl-4-pentenoic Acid
A 100-ml four-necked flask equipped with a Dimroth reflux condenser, stirrer and thermometer was purged with nitrogen. The flask was charged with 17.7 g (0.0768 mol) of ethoxydimethylsilyl 2,2-dimethyl-4-pentenoate and 14.2 g (0.307 mol) of ethanol. The contents were stirred at room temperature for one hour, then at 60-65° C. for 5 hours. The reaction mixture was vacuum distilled, collecting 9.2 g of a colorless clear fraction having a boiling point of 78-79° C./0.6 kPa. On NMR and GC/MS analysis, the liquid was identified to be the target compound, 2,2-dimethyl-4-pentenoic acid. The yield was 93.4%. 1H-NMR (CDCl3, 300 MHz): δ (ppm) 11.9 (1H, br), 5.84-5.70 (1H, m), 5.11-5.08 (1H, m), 5.07-5.04 (1H, m), 2.30 (2H, dt, J=7.3 Hz, 1.1 Hz), 1.19 (6H, s) 13C-NMR (CDCl3, 75.6 MHz): δ (ppm) 184.6, 133.9, 118.2, 44.4, 42.2, 24.5 MS (EI): m/z 128 (M+), 113, 83, 55, 41

reactant | ethoxydimethylsilyl 2,2-dimethyl-4-pentenoate | 0.0768 mol, 17.7 g | CC(C(=O)O[Si](C)(C)OCC)(CC=C)C | C11H22O3Si
reactant | ethanol | 0.307 mol, 14.2 g | C(C)O | C2H6O
product | 2,2-dimethyl-4-pentenoic Acid | yield was 93.4% | CC(C(=O)O)(CC=C)C | C7H12O2
